US07576215B2
3-[3-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}OXY)PHENYL]PROPANOIC ACID
The title compound was prepared from [3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenyl]-methanol and 3-(3-hydroxy-phenyl)-propionic acid methyl ester according to the procedure of Example 69. MS (ESI) m/z 542.

reactant | [3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenyl]-methanol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)CO)C(F)(F)F | C24H18F3NO
reactant | 3-(3-hydroxy-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)O)=O | C10H12O3
product | 3-[3-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}OXY)PHENYL]PROPANOIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(COC=2C=C(C=CC2)CCC(=O)O)C=CC1)C(F)(F)F | C33H26F3NO3
